US08609644B2
7-Methyleneandrostane-3,17-dione (II-bv)
The title compound II-bv was prepared in 87% yield from 3,3:17,17-bis(ethylendioxy)-6-methyleneandrostane by the procedure described above for the preparation of 6α-cyanoandrostane-3,17-dione (II-ac, Prepn. 3). The combined organic extracts were washed with H2O, dried over Na2SO4 and evaporated to dryness. 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 4.78 (m, 1H), 4.76 (m, 1H), 2.53-0.88 (m, 20H), 1.23 (s, 3H), 0.91 (s, 3H).

reactant | 17,17-bis(ethylendioxy)-6-methyleneandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC(C3CCCC[C@]3(C)[C@H]1CC4)=C | C24H36O4
reactant | 6α-cyanoandrostane-3,17-dione | C(#N)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H27NO2
product | 7-Methyleneandrostane-3,17-dione | 87% yield | C=C1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC2C1)=O)C)=O | C20H28O2
